US04781750
Butyl cyanoacetate (6.35 g; 0.05 mol) and triethylamine (20.9 ml; 0.15 mol) were dissolved in dry THF (100 ml) under dry nitrogen, and 4-chloro-2-nitrobenzoyl chloride (11.0 g; 0.05 mol) in dry THF (100 ml) added dropwise over 45 min. The mixture was stirred at room temperature under dry nitrogen for 18 hours, during which time a precipitate was formed. The solution was filtered and evaporated, giving a residue which was treated with 2M sodium hydroxide solution (200 ml) and CH2Cl2 (100 ml). This formed three layers. The middle layer was treated with 2M hydrochloric acid (50 ml) and extracted into CH2Cl2 (3×50 ml). The extracts were combined, dried (Na2SO4), filtered and evaporated, giving butyl 2-(4-chloro-2-nitrobenzoyl)-2-cyanoacetate (10.27 g; 63%) as a yellow solid, m.p. 56°-58° C., (Found, C: 52.01; H: 4.05; N: 8.70; Cl: 10.97. C14H13ClN2O5 requires C: 51.77; H: 4.01; N: 8.63; Cl: 10.94%), d (CDCl3 ; 60 MHz) 0.8-2.1 (7H, m), 4.4 (2H, t, J=6 Hz), 7.65 (2H, m), 8.15 (1H, d, J=2 Hz) and 13.0 (1H, br, s), vmax (nujol) 2230, 1660, 1610, 1590 and 1540.

reactant | Butyl cyanoacetate | 0.05 mol, 6.35 g | C(#N)CC(=O)OCCCC | C7H11NO2
reactant | triethylamine | 0.15 mol, 20.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-nitrobenzoyl chloride | 0.05 mol, 11.0 g | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | sodium hydroxide | 2M, 200 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 50 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | butyl 2-(4-chloro-2-nitrobenzoyl)-2-cyanoacetate | 10.27 g, 63% | ClC1=CC(=C(C(=O)C(C(=O)OCCCC)C#N)C=C1)[N+](=O)[O-] | C14H13ClN2O5
